US06888029B2
Preparation of N-Hexyl-2-nitroaniline (8)
A solution of Pd2(dba)3 [92 mg, 0.1 mmol (4.6 mg, 0.005 mmol, 2 mol % Pd per reaction)], ligand 1 (see FIG. 1) [168 mg, 0.4 mmol (8.4 mg, 0.02 mmol, 4 mol % per reaction)] and NaOt-Bu [40 mg, 0.4 mmol (2 mg, 0.02 mmol, 4 mol % per reaction)] were stirred in 10 mL DME (anhy). After 10 minutes, 0.5 mL of the solution was added via syringe to a test tube containing (under an Argon atmosphere) K3PO4 (148 mg, 0.7 mmol), 2-chloronitrobenzene (79 mg, 0.5 mmol), and hexylamine (79 μL, 0.6 mmol). The test tube was capped (with a proper cap-no rubber septa) and heated at 100° C. for 18 hours. The reaction mixture was allowed to cool to r.t., diluted with ether and dodecane was added as an internal standard. The reaction mixture was purified by preparatory TLC (EtOAc/hexanes as the eluent) to yield 3 mg of the desired product (which was used for calibration with the internal standard). The GC yield was calculated to be 19%.

reactant | NaOt-Bu | 0.4 mmol, 40 mg | CC(C)(C)[O-].[Na+]
reactant | K3PO4 | 0.7 mmol, 148 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 2-chloronitrobenzene | 0.5 mmol, 79 mg | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | hexylamine | 0.6 mmol, 79 μL | C(CCCCC)N | C6H15N
solvent | DME | 10 mL | COCCOC | C4H10O2
solvent | ether | CCOCC | C4H10O
solvent | dodecane | CCCCCCCCCCCC | C12H26
catalyst | Pd2(dba)3 | 0.1 mmol, 92 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-Hexyl-2-nitroaniline | 3 mg | C(CCCCC)NC1=C(C=CC=C1)[N+](=O)[O-] | C12H18N2O2
